US07407976B2
A mixture of 2-(4-Methoxy-benzyl)-oxazole-4-carboxylic acid methyl ester (40 mg, 0.16 mmol), methanol (2 mL) and 1N NaOH (1 mL) was heated at 60° C. for 2 hours and allowed to stand at 25° C. for 30 minutes. After dilution with water, the mixture was adjusted to pH 2 with 2N HCl and extracted with ether. The organic layers were combined, dried with MgSO4 and evaporated to dryness to yield 25 mg (66%) of 2-(4-Methoxy-benzyl)-oxazole-4-carboxylic acid as a white solid. ESI-MS m/z calc. 233.2, found 234.2 (M+1)+. Retention time of 2.27 minutes.

reactant | 2-(4-Methoxy-benzyl)-oxazole-4-carboxylic acid methyl ester | 0.16 mmol, 40 mg | COC(=O)C=1N=C(OC1)CC1=CC=C(C=C1)OC | C13H13NO4
reactant | methanol | 2 mL | CO | CH4O
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | water | O | H2O
product | 2-(4-Methoxy-benzyl)-oxazole-4-carboxylic acid | 25 mg, 66% | COC1=CC=C(CC=2OC=C(N2)C(=O)O)C=C1 | C12H11NO4
